US05750213
First, 2.7 g of sodium ethoxide and 100 ml of dry ethanol were placed in a 200 ml flask. Then, 20 ml of an ethanol solution containing 7 g of diethyl malonate was added dropwise to the reaction mixture at 60° C., and the resultant reaction mixture was stirred for 2 hours. Then, 20 ml of an ethanol solution containing 9 g of 1-bromo-6-benzyloxyhexane was added dropwise to the reaction mixture, and the resultant reaction mixture was stirred under reflux for 3 hours. The reaction mixture was poured into diluted hydrochloric acid, and an organic layer was extracted with ether. The ether layer was washed with water and dried over anhydrous sodium sulfate. Thereafter, the solvent was distilled away. The residue was purified by silica gel column chromatography (eluent: hexane/ethyl acetate=9/1) to obtain 11.5 g of diethyl 2-(6-benzyloxyhexyl)malonate (Y: 98%). The compound thus obtained had a purity of 86.3% by GC.

reactant | sodium ethoxide | 2.7 g | [O-]CC.[Na+]
reactant | diethyl malonate | 7 g | C(CC(=O)OCC)(=O)OCC | C7H12O4
reactant | 1-bromo-6-benzyloxyhexane | 9 g | BrCCCCCCOCC1=CC=CC=C1 | C13H19BrO
reactant | hydrochloric acid | Cl | ClH
solvent | ethanol | 20 ml | C(C)O | C2H6O
solvent | ethanol | 20 ml | C(C)O | C2H6O
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | diethyl 2-(6-benzyloxyhexyl)malonate | 11.5 g, 98% | C(C1=CC=CC=C1)OCCCCCCC(C(=O)OCC)C(=O)OCC | C20H30O5
